US05273999
Preparation of 7-[5-[(3,4-Dihydro-4-oxo-8-propyl-2H-1-benzopyran-7-yl)oxy]pentyloxy]-2-benzofurancarboxylic Acid
A mixture of 0.556 g (1.57 mmol) of 7-[(5-bromopentyl)oxy]-2,3-dihydro-8-propyl-4H-1-benzopyran-4-one, 0.323 g (1.57 mmol) of 7-hydroxy-2-benzofurancarboxylic acid ethyl ester, 0.866 g (6.26 mmol) of anhydrous granular potassium carbonate and 16 mL of 2-butanone was stirred and refluxed for 16.5 hrs. The resulting slurry was filtered with suction and the solids were washed thoroughly with ethyl acetate. The filtrate and washes were combined and concentrated in vacuo and the residue was purified by flash chromatography on 70 g of silica gel, eluting with 4:1 hexane-ethyl acetate giving 0.527 g (70%) of 7-[5-[(3,4-dihydro-4-oxo-8-propyl-2H-1-benzopyran-7-yl)oxy]pentyloxy]benzenepropanoic acid ethyl ester as a white solid, mp 79.5°-81° C. A mixture of 0.262 g (0.55 mmol) of this ester in 3.5 mL of THF and 3.5 mL of water was treated with 35.1 mg (0.84 mmol) of lithium hydroxide monohydrate and the mixture was stirred for 17.5 hr. After being acidified with 16 mL of 3N aqueous sulfuric acid, the resulting mixture was worked-up with ether and ethyl acetate in the usual manner. The crude product was recrystallized from hexane-ethyl acetate to give 0.185 g (74.9%) of the title compound as a white solid, mp 152°-153.5° C.

reactant | 7-[(5-bromopentyl)oxy]-2,3-dihydro-8-propyl-4H-1-benzopyran-4-one | 1.57 mmol, 0.556 g | BrCCCCCOC1=C(C2=C(C(CCO2)=O)C=C1)CCC | C17H23BrO3
reactant | 7-hydroxy-2-benzofurancarboxylic acid ethyl ester | 1.57 mmol, 0.323 g | C(C)OC(=O)C=1OC2=C(C1)C=CC=C2O | C11H10O4
reactant | potassium carbonate | 6.26 mmol, 0.866 g | C([O-])([O-])=O.[K+].[K+]
reactant | lithium hydroxide monohydrate | 0.84 mmol, 35.1 mg | O.[OH-].[Li+]
reactant | sulfuric acid | 3N, 16 mL | S(O)(O)(=O)=O | H2O4S
solvent | THF | 3.5 mL | C1CCOC1 | C4H8O
solvent | water | 3.5 mL | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ether | CCOCC | C4H10O
solvent | 2-butanone | 16 mL | CC(CC)=O | C4H8O
product | 7-[5-[(3,4-Dihydro-4-oxo-8-propyl-2H-1-benzopyran-7-yl)oxy]pentyloxy]-2-benzofurancarboxylic Acid | 0.185 g, 74.9% | O=C1CCOC2=C1C=CC(=C2CCC)OCCCCCOC2=CC=CC=1C=C(OC12)C(=O)O | C26H28O7
